US04914112
To lithium diisopropylamide in tetrahydrofuran prepared with diisopropylamine (0.187 g, 1.85 mmol) and n-butyllithium (1.9 mmol) was added 2-amino-4-(1-(2-fluoro-4-biphenylyl)ethyl)thiazole (0.50 g, 1.68 mmol) in tetrahydrofuran at -70° C. After the mixture was stirred for 20 min, methylisothiocyanate (0.131 g, 1.8 mmol) in tetrahydrofuran was added to the mixture. After the mixture was stirred at room temperature for 3.5 h, the mixture was evaporated under reduced pressure to a residue, which was extracted with chloroform. The extracts were washed with water, dried over, and evaporated under reduced pressure to a residue, which was chromatographed and recrystallized to afford N-methyl-N'-(4-(1-(2-fluoro-4-biphenylyl)ethyl)thiazol-2-yl)thiourea (0.233 g, 35% yield) as crystalline material: mp 180.5°-181.0° C.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 1.85 mmol, 0.187 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.9 mmol | C(CCC)[Li]
reactant | 2-amino-4-(1-(2-fluoro-4-biphenylyl)ethyl)thiazole | 1.68 mmol, 0.50 g | NC=1SC=C(N1)C(C)C1=CC(=C(C=C1)C1=CC=CC=C1)F | C17H15FN2S
reactant | methylisothiocyanate | 1.8 mmol, 0.131 g | CN=C=S | C2H3NS
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-methyl-N'-(4-(1-(2-fluoro-4-biphenylyl)ethyl)thiazol-2-yl)thiourea | 0.233 g, 35% yield | CNC(=S)NC=1SC=C(N1)C(C)C1=CC(=C(C=C1)C1=CC=CC=C1)F | C19H18FN3S2
